US05914324
A solution of 3-formyl-5α-androstan-6α,17β-diol (II-c, Prep. 3, 240 mg) in dioxane/water (2/1, 30 mL) was treated with sodium hydroxide (0.1 N) to pH=13-14 and stirred for 15 minutes, then a solution O-(2-aminoethyl)-hydroxylamine dihydrochloride (170 mg) in water (3 mL) was poured in. After 1 hr. the organic solvent was distilled off and the acqueous solution was extracted with chloroform (5×20 mL). The combined organic layers were dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography (SiO2, chloroform/methanol/ammonia 90/10/1) to give (Z)-3β-(2-aminoethoxyiminomethyl)-5α-androstan-6α,17β-diol, which was dissolved in ethyl acetate/methanol 70/30 and treated with oxalic acid to give 85 mg of (Z)-3β-(2-aminoethoxyiminomethyl)-5α-androstan-6α,17β-diol oxalate (I-d) as a white solid mp 190-192° C.

reactant | 3-formyl-5α-androstan-6α,17β-diol | 240 mg | C(=O)C1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C20H32O3
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
reactant | O-(2-aminoethyl)-hydroxylamine dihydrochloride | 170 mg | Cl.Cl.NCCON
solvent | dioxane water | 30 mL | O1CCOCC1.O
solvent | water | 3 mL | O | H2O
product | (Z)-3β-(2-aminoethoxyiminomethyl)-5α-androstan-6α,17β-diol | NCCO\N=C/[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C22H38N2O3
